US06607791B1
To 20 g of 2,6-difluoro-4-(trans-4-vinylcyclohexyl) benzoic acid were then added 120 ml of 1,2-dichloroethane, 16 g of thionyl chloride and few drops of pyridine. The reaction mixture was then heated under reflux for 6 hours. The reaction mixture was then allowed to cool to room temperature. The solvents and excess thionyl chloride were distilled off under reduced pressure. To the residue was then added 150 ml of dichloromethane. The residue solution was then cooled to a temperature of 10° C. or lower. Ammonia was then introduced into the solution with stirring at a rate such that the liquid temperature was kept at 20° C. or lower. When heat generation was terminated, the solvents were then distilled off under reduced pressure. To the residue was then added 150 ml of N,N-dimethylformamide. The residue solution was then cooled to a temperature of 10° C. or lower. To the solution was then added dropwise 26.5 g of phosphorus oxychloride at a rate such that the liquid temperature was kept at 10° C. or lower. The temperature of the reaction solution was then returned to room temperature. The solution was then poured onto crushed ice. The resulting crystal was then filtered. The crystal thus obtained was washed with water, and then dried under reduced pressure. The crystal was then purified through silica gel column chromatography (solvent: toluene) to obtain 2,6-difluoro-4-(trans-4-vinylcyclohexyl)benzonitrile. The product was then recrystallized from ethanol to obtain 12.1 g of a purified product. The compound thus obtained had a melting point of 39° C.

reactant | 2,6-difluoro-4-(trans-4-vinylcyclohexyl) benzoic acid | 20 g | FC1=C(C(=O)O)C(=CC(=C1)[C@@H]1CC[C@H](CC1)C=C)F | C15H16F2O2
reactant | 1,2-dichloroethane | 120 ml | ClCCCl | C2H4Cl2
reactant | thionyl chloride | 16 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,6-difluoro-4-(trans-4-vinylcyclohexyl)benzonitrile | FC1=C(C#N)C(=CC(=C1)[C@@H]1CC[C@H](CC1)C=C)F | C15H15F2N
